US06740647B1
a) α-Acetylglycine Methyl Ester Hydrochloride
Potassium tert-butylate (17.8 g, 157.9 mmol) was introduced into THF (120 ml), and a solution of N-diphenylmethylideneglycine methyl ester (40 g, 157.9 mmol) in THF (60 ml) was added at −70° C. After the yellowish solution had been stirred for 30 minutes at this temperature, it was added dropwise at −70° C. to a solution of acetyl chloride (12.4 g, 157.9 mmol) in THF (70 ml). After the mixture had been stirred at this temperature for 1.75 hours, 3N HCl (160 ml) was added, and the yellowish suspension was stirred for a further 10 minutes at room temperature. The THF was removed at room temperature on a rotary evaporator, and the remaining aqueous phase was washed 3× with diethyl ether. The aqueous phase was freeze-dried and the residue was extracted by stirring with methanol. The methanolic solution of the product was concentrated on a rotary evaporator at 35° C. Yield: 26.4 g (157.9 mmol, quant., yellowish solid).

reactant | Potassium tert-butylate | 157.9 mmol, 17.8 g | CC(C)(C)[O-].[K+]
reactant | N-diphenylmethylideneglycine methyl ester | 157.9 mmol, 40 g | COC(CN=C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C16H15NO2
reactant | acetyl chloride | 157.9 mmol, 12.4 g | C(C)(=O)Cl | C2H3ClO
reactant | HCl | 3N, 160 ml | Cl | ClH
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | THF | 70 ml | C1CCOC1 | C4H8O
solvent | THF | 120 ml | C1CCOC1 | C4H8O
product | α-Acetylglycine Methyl Ester Hydrochloride | Cl.COC(C(N)C(C)=O)=O | InChI=1S/C5H9NO3.ClH/c1-3(7)4(6)5(8)9-2;/h4H,6H2,1-2H3;1H
